US04612271
15 g (0.034 mol) of the thus obtained 2,4,5-tris(4'-nitrophenyl)thiazole was mixed with 500 ml of N,N-dimethylformamide and 20 g of iron powder. The mixture was admixed with 10 ml of concentrated sulfuric acid and 30 ml of water. The admixture was heated to a temperature of 100° C. with thorough stirring. After 1 hour passed, the solution was neutralized with a saturated aqueous solution of sodium hydrogencarbonate with the reaction temperature kept at 100° C. to adjust the pH value thereof to 8. The reaction solution was then hot-filtered. The filtrate was poured into 3 l of ice water to produce a light yellow precipitate of 2,4,5-tris(4'-aminophenyl)thiazole which was then filtered off and dried to obtain 11.3 g (yield: 94%) of the product.

reactant | 2,4,5-tris(4'-nitrophenyl)thiazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC(=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C21H12N4O6S
reactant | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | iron | 20 g | [Fe] | Fe
solvent | water | 30 ml | O | H2O
product | 2,4,5-tris(4'-aminophenyl)thiazole | NC1=CC=C(C=C1)C=1SC(=C(N1)C1=CC=C(C=C1)N)C1=CC=C(C=C1)N | C21H18N4S
